* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.0007777320189567885
Fd1_1 0 s1 V1 -0.038886600947839425
Gr1_1_1 0 s1 x1_a1 0 688975147890.591
Gr2_1_1 0 s1 x2_a1 0 -788881511349.3695
Gr3_1_1 0 s1 x3_a1 0 148390953457.35507
Gr4_re_1_1 0 s1 x4_re_a1 0 148280729.31914315
Gr4_im_1_1 0 s1 x4_im_a1 0 -1534623937.0449615
Gr5_re_1_1 0 s1 x5_re_a1 0 -99869.47447423596
Gr5_im_1_1 0 s1 x5_im_a1 0 1026335.9488094669
Gr6_re_1_1 0 s1 x6_re_a1 0 -1565114.1779540407
Gr6_im_1_1 0 s1 x6_im_a1 0 1880569.5318144811
Gr7_1_1 0 s1 x7_a1 0 11319634734.437044
Gr8_re_1_1 0 s1 x8_re_a1 0 -765181.8514258151
Gr8_im_1_1 0 s1 x8_im_a1 0 -137779.12477980665
Gr9_re_1_1 0 s1 x9_re_a1 0 -443824.4506090557
Gr9_im_1_1 0 s1 x9_im_a1 0 -302086.7293192724
Gr10_re_1_1 0 s1 x10_re_a1 0 -3797957.989937394
Gr10_im_1_1 0 s1 x10_im_a1 0 -3788313.5976104443
Gr11_re_1_1 0 s1 x11_re_a1 0 -12030653.348050388
Gr11_im_1_1 0 s1 x11_im_a1 0 -1637052.716933689
Gr12_re_1_1 0 s1 x12_re_a1 0 734320.2784508162
Gr12_im_1_1 0 s1 x12_im_a1 0 2837946.4743752764
Gr13_re_1_1 0 s1 x13_re_a1 0 -304159.7145181093
Gr13_im_1_1 0 s1 x13_im_a1 0 -125326.33159778928
Gr14_re_1_1 0 s1 x14_re_a1 0 -1383115.150251116
Gr14_im_1_1 0 s1 x14_im_a1 0 -2464825.0981696756
Gr15_re_1_1 0 s1 x15_re_a1 0 -1099972.6604419234
Gr15_im_1_1 0 s1 x15_im_a1 0 -1706691.1236390239
Gr16_re_1_1 0 s1 x16_re_a1 0 -125579.60507688836
Gr16_im_1_1 0 s1 x16_im_a1 0 -193654.94868637715
Gr17_re_1_1 0 s1 x17_re_a1 0 232452.95965090088
Gr17_im_1_1 0 s1 x17_im_a1 0 -865283.9516108892
Gr18_re_1_1 0 s1 x18_re_a1 0 550669.0809888038
Gr18_im_1_1 0 s1 x18_im_a1 0 -731817.9342106568
Gr19_1_1 0 s1 x19_a1 0 -7.812108714778194e-16
Gr20_re_1_1 0 s1 x20_re_a1 0 -4.328866941119102e-15
Gr20_im_1_1 0 s1 x20_im_a1 0 4.166391756097511e-31
Gr21_1_1 0 s1 x21_a1 0 -2.9446705174377306e-15
Gd1_2 0 s1 p2 0 -0.0008201304663872698
Fd1_2 0 s1 V2 -0.04100652331936349
Gr1_1_2 0 s1 x1_a2 0 44120838012.541595
Gr2_1_2 0 s1 x2_a2 0 -52573219347.63674
Gr3_1_2 0 s1 x3_a2 0 6948118277.929435
Gr4_re_1_2 0 s1 x4_re_a2 0 -1688720925.9241946
Gr4_im_1_2 0 s1 x4_im_a2 0 3965779036.0194273
Gr5_re_1_2 0 s1 x5_re_a2 0 -80569.1162066725
Gr5_im_1_2 0 s1 x5_im_a2 0 386492.78890053567
Gr6_re_1_2 0 s1 x6_re_a2 0 -712672.7199153504
Gr6_im_1_2 0 s1 x6_im_a2 0 655539.9579033804
Gr7_1_2 0 s1 x7_a2 0 12224073345.078632
Gr8_re_1_2 0 s1 x8_re_a2 0 -291572.7888071506
Gr8_im_1_2 0 s1 x8_im_a2 0 -107857.35743778977
Gr9_re_1_2 0 s1 x9_re_a2 0 -152180.60728637202
Gr9_im_1_2 0 s1 x9_im_a2 0 -152479.56114328364
Gr10_re_1_2 0 s1 x10_re_a2 0 -1150287.6448269875
Gr10_im_1_2 0 s1 x10_im_a2 0 -1783970.2823178535
Gr11_re_1_2 0 s1 x11_re_a2 0 -4354962.169103678
Gr11_im_1_2 0 s1 x11_im_a2 0 -1768056.0933861483
Gr12_re_1_2 0 s1 x12_re_a2 0 6761.630026391117
Gr12_im_1_2 0 s1 x12_im_a2 0 1106371.2266331308
Gr13_re_1_2 0 s1 x13_re_a2 0 -102186.9283245236
Gr13_im_1_2 0 s1 x13_im_a2 0 -64741.200723346694
Gr14_re_1_2 0 s1 x14_re_a2 0 -342202.54326814384
Gr14_im_1_2 0 s1 x14_im_a2 0 -919503.6735882892
Gr15_re_1_2 0 s1 x15_re_a2 0 -304919.7254958165
Gr15_im_1_2 0 s1 x15_im_a2 0 -631547.2006576894
Gr16_re_1_2 0 s1 x16_re_a2 0 -37768.161638765094
Gr16_im_1_2 0 s1 x16_im_a2 0 -59591.59089719508
Gr17_re_1_2 0 s1 x17_re_a2 0 102545.77334586189
Gr17_im_1_2 0 s1 x17_im_a2 0 -285774.96413248143
Gr18_re_1_2 0 s1 x18_re_a2 0 198603.61511753703
Gr18_im_1_2 0 s1 x18_im_a2 0 -237297.44360477306
Gr19_1_2 0 s1 x19_a2 0 4.845782047378771e-18
Gr20_re_1_2 0 s1 x20_re_a2 0 2.6851579305016116e-17
Gr20_im_1_2 0 s1 x20_im_a2 0 -6.116604587276129e-32
Gr21_1_2 0 s1 x21_a2 0 1.8265531136828202e-17
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.085618966055419e-12
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 3.1669742468420726e-12
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 5.009449463028856e-12
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 2.5601141304011697e-11
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 143834284083.43753
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -143834284083.43753
Rp4_im_im_a1 0 x4_im_a1 2.5601141304011697e-11
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 4.106211633744798e-09
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 59810159559.14454
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -59810159559.14454
Rp5_im_im_a1 0 x5_im_a1 4.106211633744798e-09
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 1.820993305743248e-09
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 50490288101.6534
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -50490288101.6534
Rp6_im_im_a1 0 x6_im_a1 1.820993305743248e-09
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 2.89900184873542e-11
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 5.904834681530284e-09
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 41096713540.31413
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -41096713540.31413
Rp8_im_im_a1 0 x8_im_a1 5.904834681530284e-09
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 8.705601803236e-09
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 38561738343.768814
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -38561738343.768814
Rp9_im_im_a1 0 x9_im_a1 8.705601803236e-09
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 1.2024945159716762e-09
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 35520178399.67871
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -35520178399.67871
Rp10_im_im_a1 0 x10_im_a1 1.2024945159716762e-09
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 8.262433494985822e-10
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 32490626589.558243
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -32490626589.558243
Rp11_im_im_a1 0 x11_im_a1 8.262433494985822e-10
Cx12_re_a1 x12_re_a1 0 1.0
Gx12_re_a1 0 x12_re_a1 p1 0 0.1414213562373095
Fx12_re_a1 0 x12_re_a1 V1 7.0710678118654755
Rp12_re_re_a1 0 x12_re_a1 2.6456386751712636e-09
Gp12_re_im_a1 0 x12_re_a1 x12_im_a1 0 31628909435.35422
Cx12_im_a1 x12_im_a1 0 1.0
Gp12_im_re_a1 0 x12_im_a1 x12_re_a1 0 -31628909435.35422
Rp12_im_im_a1 0 x12_im_a1 2.6456386751712636e-09
Cx13_re_a1 x13_re_a1 0 1.0
Gx13_re_a1 0 x13_re_a1 p1 0 0.1414213562373095
Fx13_re_a1 0 x13_re_a1 V1 7.0710678118654755
Rp13_re_re_a1 0 x13_re_a1 1.2666939505014836e-08
Gp13_re_im_a1 0 x13_re_a1 x13_im_a1 0 26711896205.760902
Cx13_im_a1 x13_im_a1 0 1.0
Gp13_im_re_a1 0 x13_im_a1 x13_re_a1 0 -26711896205.760902
Rp13_im_im_a1 0 x13_im_a1 1.2666939505014836e-08
Cx14_re_a1 x14_re_a1 0 1.0
Gx14_re_a1 0 x14_re_a1 p1 0 0.1414213562373095
Fx14_re_a1 0 x14_re_a1 V1 7.0710678118654755
Rp14_re_re_a1 0 x14_re_a1 1.6283400711593142e-09
Gp14_re_im_a1 0 x14_re_a1 x14_im_a1 0 21811710329.525475
Cx14_im_a1 x14_im_a1 0 1.0
Gp14_im_re_a1 0 x14_im_a1 x14_re_a1 0 -21811710329.525475
Rp14_im_im_a1 0 x14_im_a1 1.6283400711593142e-09
Cx15_re_a1 x15_re_a1 0 1.0
Gx15_re_a1 0 x15_re_a1 p1 0 0.1414213562373095
Fx15_re_a1 0 x15_re_a1 V1 7.0710678118654755
Rp15_re_re_a1 0 x15_re_a1 2.15312822826428e-09
Gp15_re_im_a1 0 x15_re_a1 x15_im_a1 0 18294519754.029957
Cx15_im_a1 x15_im_a1 0 1.0
Gp15_im_re_a1 0 x15_im_a1 x15_re_a1 0 -18294519754.029957
Rp15_im_im_a1 0 x15_im_a1 2.15312822826428e-09
Cx16_re_a1 x16_re_a1 0 1.0
Gx16_re_a1 0 x16_re_a1 p1 0 0.1414213562373095
Fx16_re_a1 0 x16_re_a1 V1 7.0710678118654755
Rp16_re_re_a1 0 x16_re_a1 2.141591261444075e-08
Gp16_re_im_a1 0 x16_re_a1 x16_im_a1 0 16714901306.660326
Cx16_im_a1 x16_im_a1 0 1.0
Gp16_im_re_a1 0 x16_im_a1 x16_re_a1 0 -16714901306.660326
Rp16_im_im_a1 0 x16_im_a1 2.141591261444075e-08
Cx17_re_a1 x17_re_a1 0 1.0
Gx17_re_a1 0 x17_re_a1 p1 0 0.1414213562373095
Fx17_re_a1 0 x17_re_a1 V1 7.0710678118654755
Rp17_re_re_a1 0 x17_re_a1 4.3775355943191796e-09
Gp17_re_im_a1 0 x17_re_a1 x17_im_a1 0 11249950795.393532
Cx17_im_a1 x17_im_a1 0 1.0
Gp17_im_re_a1 0 x17_im_a1 x17_re_a1 0 -11249950795.393532
Rp17_im_im_a1 0 x17_im_a1 4.3775355943191796e-09
Cx18_re_a1 x18_re_a1 0 1.0
Gx18_re_a1 0 x18_re_a1 p1 0 0.1414213562373095
Fx18_re_a1 0 x18_re_a1 V1 7.0710678118654755
Rp18_re_re_a1 0 x18_re_a1 4.198994436203121e-09
Gp18_re_im_a1 0 x18_re_a1 x18_im_a1 0 6942409567.451322
Cx18_im_a1 x18_im_a1 0 1.0
Gp18_im_re_a1 0 x18_im_a1 x18_re_a1 0 -6942409567.451322
Rp18_im_im_a1 0 x18_im_a1 4.198994436203121e-09
Cx19_a1 x19_a1 0 1.0
Gx19_a1 0 x19_a1 p1 0 0.07071067811865475
Fx19_a1 0 x19_a1 V1 3.5355339059327378
Rp19_a1 0 x19_a1 326150.12635070033
Cx20_re_a1 x20_re_a1 0 1.0
Gx20_re_a1 0 x20_re_a1 p1 0 0.1414213562373095
Fx20_re_a1 0 x20_re_a1 V1 7.0710678118654755
Rp20_re_re_a1 0 x20_re_a1 289195.20515858755
Gp20_re_im_a1 0 x20_re_a1 x20_im_a1 0 4.830922120123079e-06
Cx20_im_a1 x20_im_a1 0 1.0
Gp20_im_re_a1 0 x20_im_a1 x20_re_a1 0 -4.830922120123079e-06
Rp20_im_im_a1 0 x20_im_a1 289195.20515858755
Cx21_a1 x21_a1 0 1.0
Gx21_a1 0 x21_a1 p1 0 0.07071067811865475
Fx21_a1 0 x21_a1 V1 3.5355339059327378
Rp21_a1 0 x21_a1 167989.9637179171
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -0.0008201304663872698
Fd2_1 0 s2 V1 -0.04100652331936349
Gr1_2_1 0 s2 x1_a1 0 44120838012.54158
Gr2_2_1 0 s2 x2_a1 0 -52573219347.63673
Gr3_2_1 0 s2 x3_a1 0 6948118277.929434
Gr4_re_2_1 0 s2 x4_re_a1 0 -1688720925.9241943
Gr4_im_2_1 0 s2 x4_im_a1 0 3965779036.0194287
Gr5_re_2_1 0 s2 x5_re_a1 0 -80569.11620670496
Gr5_im_2_1 0 s2 x5_im_a1 0 386492.788900555
Gr6_re_2_1 0 s2 x6_re_a1 0 -712672.7199153622
Gr6_im_2_1 0 s2 x6_im_a1 0 655539.9579033436
Gr7_2_1 0 s2 x7_a1 0 12224073345.078632
Gr8_re_2_1 0 s2 x8_re_a1 0 -291572.7888071444
Gr8_im_2_1 0 s2 x8_im_a1 0 -107857.35743779935
Gr9_re_2_1 0 s2 x9_re_a1 0 -152180.60728637924
Gr9_im_2_1 0 s2 x9_im_a1 0 -152479.56114328007
Gr10_re_2_1 0 s2 x10_re_a1 0 -1150287.64482697
Gr10_im_2_1 0 s2 x10_im_a1 0 -1783970.2823178344
Gr11_re_2_1 0 s2 x11_re_a1 0 -4354962.169103815
Gr11_im_2_1 0 s2 x11_im_a1 0 -1768056.0933861681
Gr12_re_2_1 0 s2 x12_re_a1 0 6761.630026390515
Gr12_im_2_1 0 s2 x12_im_a1 0 1106371.2266331338
Gr13_re_2_1 0 s2 x13_re_a1 0 -102186.92832452014
Gr13_im_2_1 0 s2 x13_im_a1 0 -64741.20072334459
Gr14_re_2_1 0 s2 x14_re_a1 0 -342202.54326816846
Gr14_im_2_1 0 s2 x14_im_a1 0 -919503.6735882511
Gr15_re_2_1 0 s2 x15_re_a1 0 -304919.7254958861
Gr15_im_2_1 0 s2 x15_im_a1 0 -631547.200657656
Gr16_re_2_1 0 s2 x16_re_a1 0 -37768.1616387725
Gr16_im_2_1 0 s2 x16_im_a1 0 -59591.590897194605
Gr17_re_2_1 0 s2 x17_re_a1 0 102545.7733458384
Gr17_im_2_1 0 s2 x17_im_a1 0 -285774.9641324841
Gr18_re_2_1 0 s2 x18_re_a1 0 198603.61511751928
Gr18_im_2_1 0 s2 x18_im_a1 0 -237297.4436047741
Gr19_2_1 0 s2 x19_a1 0 4.8457820367663204e-18
Gr20_re_2_1 0 s2 x20_re_a1 0 2.6851579294491642e-17
Gr20_im_2_1 0 s2 x20_im_a1 0 -6.116604632874504e-32
Gr21_2_1 0 s2 x21_a1 0 1.8265531082157993e-17
Gd2_2 0 s2 p2 0 -0.0007473308743936635
Fd2_2 0 s2 V2 -0.037366543719683176
Gr1_2_2 0 s2 x1_a2 0 831037841383.7965
Gr2_2_2 0 s2 x2_a2 0 -598682949285.8068
Gr3_2_2 0 s2 x3_a2 0 -88120348154.94304
Gr4_re_2_2 0 s2 x4_re_a2 0 9707155339.45986
Gr4_im_2_2 0 s2 x4_im_a2 0 -17364994651.911633
Gr5_re_2_2 0 s2 x5_re_a2 0 -49386.795566015
Gr5_im_2_2 0 s2 x5_im_a2 0 134737.04536493187
Gr6_re_2_2 0 s2 x6_re_a2 0 -291295.66613958613
Gr6_im_2_2 0 s2 x6_im_a2 0 181984.87883871613
Gr7_2_2 0 s2 x7_a2 0 12788089247.075993
Gr8_re_2_2 0 s2 x8_re_a2 0 -88902.53959018442
Gr8_im_2_2 0 s2 x8_im_a2 0 -60006.09267649295
Gr9_re_2_2 0 s2 x9_re_a2 0 -36191.59641288549
Gr9_im_2_2 0 s2 x9_im_a2 0 -63579.771513551656
Gr10_re_2_2 0 s2 x10_re_a2 0 -190321.96560242557
Gr10_im_2_2 0 s2 x10_im_a2 0 -690807.5868227055
Gr11_re_2_2 0 s2 x11_re_a2 0 -1114004.8355473117
Gr11_im_2_2 0 s2 x11_im_a2 0 -1037358.6011777932
Gr12_re_2_2 0 s2 x12_re_a2 0 -117505.8912177943
Gr12_im_2_2 0 s2 x12_im_a2 0 321708.8518400339
Gr13_re_2_2 0 s2 x13_re_a2 0 -23767.993344975486
Gr13_im_2_2 0 s2 x13_im_a2 0 -25491.49273573559
Gr14_re_2_2 0 s2 x14_re_a2 0 -36478.15539868557
Gr14_im_2_2 0 s2 x14_im_a2 0 -261279.42424595627
Gr15_re_2_2 0 s2 x15_re_a2 0 -50241.47845103463
Gr15_im_2_2 0 s2 x15_im_a2 0 -179415.33911179408
Gr16_re_2_2 0 s2 x16_re_a2 0 -9350.895833406265
Gr16_im_2_2 0 s2 x16_im_a2 0 -15881.329486431328
Gr17_re_2_2 0 s2 x17_re_a2 0 35430.120434292825
Gr17_im_2_2 0 s2 x17_im_a2 0 -70078.23121407334
Gr18_re_2_2 0 s2 x18_re_a2 0 57080.026403902564
Gr18_im_2_2 0 s2 x18_im_a2 0 -55953.095652028074
Gr19_2_2 0 s2 x19_a2 0 -7.993741668585898e-16
Gr20_re_2_2 0 s2 x20_re_a2 0 -4.429513886528512e-15
Gr20_im_2_2 0 s2 x20_im_a2 0 6.567452043425318e-31
Gr21_2_2 0 s2 x21_a2 0 -3.0131346436167814e-15
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.085618966055419e-12
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 3.1669742468420726e-12
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 5.009449463028856e-12
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 2.5601141304011697e-11
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 143834284083.43753
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -143834284083.43753
Rp4_im_im_a2 0 x4_im_a2 2.5601141304011697e-11
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 4.106211633744798e-09
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 59810159559.14454
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -59810159559.14454
Rp5_im_im_a2 0 x5_im_a2 4.106211633744798e-09
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 1.820993305743248e-09
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 50490288101.6534
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -50490288101.6534
Rp6_im_im_a2 0 x6_im_a2 1.820993305743248e-09
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 2.89900184873542e-11
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 5.904834681530284e-09
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 41096713540.31413
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -41096713540.31413
Rp8_im_im_a2 0 x8_im_a2 5.904834681530284e-09
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 8.705601803236e-09
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 38561738343.768814
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -38561738343.768814
Rp9_im_im_a2 0 x9_im_a2 8.705601803236e-09
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 1.2024945159716762e-09
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 35520178399.67871
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -35520178399.67871
Rp10_im_im_a2 0 x10_im_a2 1.2024945159716762e-09
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 8.262433494985822e-10
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 32490626589.558243
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -32490626589.558243
Rp11_im_im_a2 0 x11_im_a2 8.262433494985822e-10
Cx12_re_a2 x12_re_a2 0 1.0
Gx12_re_a2 0 x12_re_a2 p2 0 0.1414213562373095
Fx12_re_a2 0 x12_re_a2 V2 7.0710678118654755
Rp12_re_re_a2 0 x12_re_a2 2.6456386751712636e-09
Gp12_re_im_a2 0 x12_re_a2 x12_im_a2 0 31628909435.35422
Cx12_im_a2 x12_im_a2 0 1.0
Gp12_im_re_a2 0 x12_im_a2 x12_re_a2 0 -31628909435.35422
Rp12_im_im_a2 0 x12_im_a2 2.6456386751712636e-09
Cx13_re_a2 x13_re_a2 0 1.0
Gx13_re_a2 0 x13_re_a2 p2 0 0.1414213562373095
Fx13_re_a2 0 x13_re_a2 V2 7.0710678118654755
Rp13_re_re_a2 0 x13_re_a2 1.2666939505014836e-08
Gp13_re_im_a2 0 x13_re_a2 x13_im_a2 0 26711896205.760902
Cx13_im_a2 x13_im_a2 0 1.0
Gp13_im_re_a2 0 x13_im_a2 x13_re_a2 0 -26711896205.760902
Rp13_im_im_a2 0 x13_im_a2 1.2666939505014836e-08
Cx14_re_a2 x14_re_a2 0 1.0
Gx14_re_a2 0 x14_re_a2 p2 0 0.1414213562373095
Fx14_re_a2 0 x14_re_a2 V2 7.0710678118654755
Rp14_re_re_a2 0 x14_re_a2 1.6283400711593142e-09
Gp14_re_im_a2 0 x14_re_a2 x14_im_a2 0 21811710329.525475
Cx14_im_a2 x14_im_a2 0 1.0
Gp14_im_re_a2 0 x14_im_a2 x14_re_a2 0 -21811710329.525475
Rp14_im_im_a2 0 x14_im_a2 1.6283400711593142e-09
Cx15_re_a2 x15_re_a2 0 1.0
Gx15_re_a2 0 x15_re_a2 p2 0 0.1414213562373095
Fx15_re_a2 0 x15_re_a2 V2 7.0710678118654755
Rp15_re_re_a2 0 x15_re_a2 2.15312822826428e-09
Gp15_re_im_a2 0 x15_re_a2 x15_im_a2 0 18294519754.029957
Cx15_im_a2 x15_im_a2 0 1.0
Gp15_im_re_a2 0 x15_im_a2 x15_re_a2 0 -18294519754.029957
Rp15_im_im_a2 0 x15_im_a2 2.15312822826428e-09
Cx16_re_a2 x16_re_a2 0 1.0
Gx16_re_a2 0 x16_re_a2 p2 0 0.1414213562373095
Fx16_re_a2 0 x16_re_a2 V2 7.0710678118654755
Rp16_re_re_a2 0 x16_re_a2 2.141591261444075e-08
Gp16_re_im_a2 0 x16_re_a2 x16_im_a2 0 16714901306.660326
Cx16_im_a2 x16_im_a2 0 1.0
Gp16_im_re_a2 0 x16_im_a2 x16_re_a2 0 -16714901306.660326
Rp16_im_im_a2 0 x16_im_a2 2.141591261444075e-08
Cx17_re_a2 x17_re_a2 0 1.0
Gx17_re_a2 0 x17_re_a2 p2 0 0.1414213562373095
Fx17_re_a2 0 x17_re_a2 V2 7.0710678118654755
Rp17_re_re_a2 0 x17_re_a2 4.3775355943191796e-09
Gp17_re_im_a2 0 x17_re_a2 x17_im_a2 0 11249950795.393532
Cx17_im_a2 x17_im_a2 0 1.0
Gp17_im_re_a2 0 x17_im_a2 x17_re_a2 0 -11249950795.393532
Rp17_im_im_a2 0 x17_im_a2 4.3775355943191796e-09
Cx18_re_a2 x18_re_a2 0 1.0
Gx18_re_a2 0 x18_re_a2 p2 0 0.1414213562373095
Fx18_re_a2 0 x18_re_a2 V2 7.0710678118654755
Rp18_re_re_a2 0 x18_re_a2 4.198994436203121e-09
Gp18_re_im_a2 0 x18_re_a2 x18_im_a2 0 6942409567.451322
Cx18_im_a2 x18_im_a2 0 1.0
Gp18_im_re_a2 0 x18_im_a2 x18_re_a2 0 -6942409567.451322
Rp18_im_im_a2 0 x18_im_a2 4.198994436203121e-09
Cx19_a2 x19_a2 0 1.0
Gx19_a2 0 x19_a2 p2 0 0.07071067811865475
Fx19_a2 0 x19_a2 V2 3.5355339059327378
Rp19_a2 0 x19_a2 326150.12635070033
Cx20_re_a2 x20_re_a2 0 1.0
Gx20_re_a2 0 x20_re_a2 p2 0 0.1414213562373095
Fx20_re_a2 0 x20_re_a2 V2 7.0710678118654755
Rp20_re_re_a2 0 x20_re_a2 289195.20515858755
Gp20_re_im_a2 0 x20_re_a2 x20_im_a2 0 4.830922120123079e-06
Cx20_im_a2 x20_im_a2 0 1.0
Gp20_im_re_a2 0 x20_im_a2 x20_re_a2 0 -4.830922120123079e-06
Rp20_im_im_a2 0 x20_im_a2 289195.20515858755
Cx21_a2 x21_a2 0 1.0
Gx21_a2 0 x21_a2 p2 0 0.07071067811865475
Fx21_a2 0 x21_a2 V2 3.5355339059327378
Rp21_a2 0 x21_a2 167989.9637179171
.ENDS s_equivalent
